US07652007B2
g) 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione
206 ml (1.44 mmol) of trimethylsilyl iodide (TMSI) are added to a solution of 250 mg (0.36 mmol) of benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate in 10 ml of CH3CN at 0° C. The reaction solution is allowed to reach room temperature and is stirred at this temperature for 2 h. 5 ml of MeOH are added to the reaction solution, and then the solution is concentrated in vacuo. The residue is purified on a 5 g SCX cartridge (eluted with MeOH followed by 3N NH3/MeOH). 185 mg of the desired compound are obtained as a white powder. LC/MS 558.07 (calculated, monoisotopic); measured value (M+H)+: 559.10

reactant | trimethylsilyl iodide | 1.44 mmol, 206 ml | C[Si](C)(C)I | C3H9ISi
reactant | benzyl[6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]carbamate | 0.36 mmol, 250 mg | C(C1=CC=CC=C1)OC(NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl)=O | C31H31Cl3N4O6S
reactant | MeOH | 5 ml | CO | CH4O
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 3-Amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione | 185 mg | NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl | C23H25Cl3N4O4S
